### PR TITLE
feat(Tactic/Matrix): list-based implementation of matrix, multiplication expansion, and the associated simproc

### PR DESCRIPTION
**Pull request by raoxiaojia**
This PR adds a list-based implementation of (dense) matrix which can be used to state reflection proofs and certificates. In addition, this adds a multiplication on the representation, and a more efficient expansion construction path than letting kernel directly perform reduction. Also adds a simproc for matrix multiplication which is 3-4x faster than `simp`, the latter of which reduces a matrix multiplication today as well by `@[simp]` lemmas.

---
Note that `ListMatrix.mul` is already kernel reducible, but is susceptible to efficiency issues and eager evaluation of arithmetic expressions, which can be undesirable. The point of MulExpand.lean is to provide a manual construction of the expanded literal and an associated proof term via controlled unfold of the dot product, which is faster to construct (no discovery required by `simp`) and cheaper to check.

The bridge between the list representation and mathlib's `Matrix` is placed in a separate file. As a result the list representation itself requires only minimal mathlib import.

Currently Matrix/Reflection.lean (unused within mathlib) also provides a reflection target, but is defined on the `vecCons` construction, which is not very efficient. This work should eventually unify with Matrix/Reflection.lean if the elaboration of `!![]` is changed in the future to lists.

This is separated from #43438 as part of enabling the echelon certificate to be parametric over a custom entry certifier.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Matrix/MulExpand.lean [hunk 1]
```diff
@@ -0,0 +1,112 @@
...
+def mkListCongr :
+    List ((a : Q($α)) × (b : Q($α)) × Q($a = $b)) →
+      (l₁ : Q(List $α)) × (l₂ : Q(List $α)) × Q($l₁ = $l₂)
+  | [] => ⟨q([]), q([]), q(rfl)⟩
+  | ⟨a, b, h⟩ :: es =>
+    let ⟨l₁, l₂, hl⟩ := mkListCongr es
+    ⟨q($a :: $l₁), q($b :: $l₂), q(congrArg₂ List.cons $h $hl)⟩
+
+/-- The list literal `[a₀, …]` of the entries `as`. -/
+def mkListLitQ : List Q($α) → Q(List $α)
```
Comment (raoxiaojia) [inline Mathlib/Tactic/Matrix/MulExpand.lean:47]: Technically this belongs to Utils/Qq.lean, but relocating it there invalidate a huge part of cache since that is imported by a large number of tactics, so I think it is better to do a bunched relocation in a separate pass.

File: Mathlib/Tactic/Matrix/MulExpand.lean [hunk 2]
```diff
@@ -0,0 +1,113 @@
...
+public import Batteries.Logic  -- shake: keep (Qq dependency)
+public import Mathlib.Init
+public import Qq
+
+public meta import Mathlib.Tactic.Matrix.ListMatrix
+
+/-!
+# Expansion of products of list matrices
+
+`proveMul` rewrites `ListMatrix.mul l m n A B` for list literals `A` and `B` to the a literal
```
Comment (kim-em) [inline Mathlib/Tactic/Matrix/MulExpand.lean]: :robot: Claude says:

Typo: "to the a literal".

File: Mathlib/Tactic/Matrix/MulExpand.lean [hunk 3]
```diff
@@ -0,0 +1,113 @@
...
+whose entries are the sums of products of the entries, with the proof constructed manually
+instead of asking kernel to perform reduction.
```
Comment (kim-em) [inline Mathlib/Tactic/Matrix/MulExpand.lean]: :robot: Claude says:

Typo: "asking kernel" → "asking the kernel".

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 1 above)
Comment (Vierkantor) [reply Mathlib/Tactic/Matrix/MulExpand.lean:47]: Hmm, which other relocations do you have in mind?

File: Mathlib/Tactic/Matrix/OfLists.lean [hunk 4]
```diff
@@ -0,0 +1,93 @@
...
+
+namespace Mathlib.Tactic.Matrix
+
+variable {α : Type*}
+
+/-- Construct a vector from the first `n` elements of a list, padded with `0`. -/
+def ofList [Zero α] : (n : ℕ) → List α → Fin n → α
+  | 0, _ => ![]
+  | n + 1, [] => vecCons 0 (ofList n [])
+  | n + 1, a :: l => vecCons a (ofList n l)
```
Comment (Vierkantor) [inline Mathlib/Tactic/Matrix/OfLists.lean:46]: I suppose for kernel computations it doesn't matter, but I was thinking in case tactic code wants to evaluate this faster, I would prefer using something like [`List.getD`](https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/BasicAux.html#List.getD) over `vecCons`es.

File: Mathlib/Tactic/NormMatMul.lean [hunk 5]
```diff
@@ -0,0 +1,82 @@
...
+  have mα : Q(Mul $α) := ← synthInstanceQ q(Mul $α)
+  let r := proveMul zα aα mα l m n rowsA rowsB
+  let ctx ← readThe Simp.Context
+  let cells ← r.rows.mapM (·.mapM fun a => do
+    let s ← Mathlib.Meta.NormNum.deriveSimp ctx (useSimp := false) (e := a)
+    have b : Q($α) := s.expr
+    return (⟨a, b, ← s.getProof⟩ : (a : Q($α)) × (b : Q($α)) × Q($a = $b)))
+  let ⟨_, _, hV⟩ := mkListCongr (α := q(List $α)) <| cells.map fun row => mkListCongr row
+  let entries := cells.toArray.map fun row => row.toArray.map (·.2.1)
+  let C := Matrix.mkLiteralQ (α := α) (m := l) (n := n) (.of fun i j => (entries[i]!)[j]!)
```
Comment (Vierkantor) [inline Mathlib/Tactic/NormMatMul.lean]: Could you extract this bit of the function? It seems like a useful operation, normalizing each entry of a given matrix.

**Review by Vierkantor — COMMENTED** [review]
Nice work, it's clear what your code is for and how it goes about doing so.

Sorry, this review is still incomplete. Want to come back to it tomorrow!

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 1 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/MulExpand.lean:47]: Oh I don't actually have any other relocations in mind. What I'm saying is that it might be better to do an aggregated PR that migrates all of these helpers in one go instead of each PR adding stuff there, which invalidates a large proportion of cache every time.

File: Mathlib/Tactic/Matrix/OfLists.lean (hunk 4 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/OfLists.lean:46]: Hmm, I think your suggestion is eventually the right call after your work on changing the elaboration of `!![...]` to array/list (and if the elaboration target is List, I think ofList might even be removable here; although Array is probably the better call for the reason you stated where random access is required outside the kernel). 

I don't think changing this to `getD` works efficiently for the current version, where `!![...]` still elaborates to `vecCons`, because ultimately in the cert I'll have to provide a term that some matrix `A` is equal to `ofLists m n Alist`, and if the LHS notation still elaborates to `vecCons`, then checking this equality now takes a indexed access over a list per entry and becomes `O(mn^2)`. I believe the current construction constructs a term that is identical to what the matrix notation elaborates to (IIUC), so the defeq check is cheap. Again, all of these vanish when your work gets merged!

File: Mathlib/Tactic/NormMatMul.lean (hunk 5 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/NormMatMul.lean]: Indeed! In fact I was slightly undecided on what the simproc should do here (or if we even want one at all), since the core only produces a rewrite and deliberately avoids any normalisation (because what normaliser to use depends on the entry type). 

Unlike actual tactics, I didn't find a way to let simprocs take config/options, so there's no easy way to let the user configure their own normaliser using a config. I thought letting 'norm_num' be the default normaliser here is a sensible choice.

File: Mathlib/Tactic/Matrix/OfLists.lean (hunk 4 above)
Comment (Vierkantor) [reply Mathlib/Tactic/Matrix/OfLists.lean:46]: Ah I see! Maybe one intermediate option is to hook into [`Matrix.ofArray`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/Defs.html#Matrix.ofArray). Although I currently can't actually find the code that translates the current `!![...]` notation into `ofArray`, maybe you can ask Paul where that ended up?

Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/OfLists.lean:46]: This was the wip version from Paul: https://github.com/paulcadman/mathlib4/pull/6  , but I don't think that got on master -- we (+Oliver) had a discussion a few weeks ago and chose to defer it again. There's also a slight representation mismatch in that version since it uses a flat 1D-array. I'll check again if there has been an updated version though. 

Regardless of what we chose here, I think I should add a TODO comment here so we still remember what to do when `!![...]` notation gets changed.

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 3 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/MulExpand.lean]: Thanks! I'll fix these in one pass later when I address the review from @Vierkantor .

File: Mathlib/Tactic/Matrix/ListMatrix.lean [hunk 6]
```diff
@@ -0,0 +1,97 @@
...
+    {c : α} (h : dotProduct n l₁ l₂ = c) : dotProduct (n + 1) (a :: l₁) (b :: l₂) = a * b + c :=
+  congrArg (a * b + ·) h
+
+/-- The transpose of a list of rows as `n` rows, where row `j` collects the `j`-th entries of
+the input rows padded with `0`. Defined by recursion on the rows with explicit padding rather than
+through Batteries' `List.transpose`, so that it reduces in the kernel. This is also more
+efficient as it gives an `O(nm)` transposition without any random access. -/
+def transpose [Zero α] (n : Nat) : List (List α) → List (List α)
+  | [] => List.replicate n []
+  | row :: rows => List.zipWith List.cons ((row.rightpad n 0).take n) (transpose n rows)
```
Comment (JovanGerb) [inline Mathlib/Tactic/Matrix/ListMatrix.lean]: Do I understand correctly that the `.take` here is redundant because the other argument to `zipWith` already has length `n`?

File: Mathlib/Tactic/Matrix/ListMatrix.lean [hunk 7]
```diff
@@ -0,0 +1,97 @@
...
+  | 0, _, _ => 0
+  | n + 1, l₁, l₂ => l₁.headD 0 * l₂.headD 0 + dotProduct n l₁.tail l₂.tail
+
+theorem dotProduct_zero [Mul α] [Add α] [Zero α] (l₁ l₂ : List α) : dotProduct 0 l₁ l₂ = 0 :=
+  rfl
+
+/- This is shaped to take the proof for the smaller dot product as an argument to produce a
+smaller proof term for the kernel check, as this avoids requiring `Eq.trans` and `congrArg` glue
+at each step. -/
+theorem dotProduct_succ_cons_cons [Mul α] [Add α] [Zero α] {n : Nat} (a b : α) {l₁ l₂ : List α}
```
Comment (JovanGerb) [inline Mathlib/Tactic/Matrix/ListMatrix.lean]: I thought there was a movement to use `add_one` instead of `succ` for naming `n + 1`.

File: Mathlib/Tactic/Matrix/MulExpand.lean [hunk 8]
```diff
@@ -0,0 +1,113 @@
+/-
+Copyright (c) 2026 Rao Xiaojia. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Rao Xiaojia
+-/
+module
+
+public import Batteries.Logic  -- shake: keep (Qq dependency)
+public import Mathlib.Init
```
Comment (JovanGerb) [inline Mathlib/Tactic/Matrix/MulExpand.lean:9]: The import of `Mathlib.Init` is redundant here

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Matrix/MulExpand.lean]: I don't think you should worry about (ab)using the cache infrastructure (I regularly make PRs that require rebuilding all of mathlib - that's just part of the process with fundamental metaprogramming). (Also, I noticed you make a lot of separate commits in your PRs, I suppose that does cause a lot of rebuilds in CI)

But if not moving it there at first speeds up your (rebuild) workflow, then it could be a valid reason to leave it to a follow up PR.

Comment (JovanGerb) [reply Mathlib/Tactic/Matrix/MulExpand.lean]: Naming wise, this function is analogous to `PiFin.mkLiteralQ`. Do we prefer `Lit` or `Literal`?

File: Mathlib/Tactic/Matrix/MulExpand.lean [hunk 9]
```diff
@@ -0,0 +1,113 @@
...
+
+public meta section
+
+open Lean Meta Qq
+
+namespace Mathlib.Tactic.Matrix
+
+-- the classes are parameters so that every quotation references the one instance term the
+-- caller synthesised, rather than rebuilding a projection path in every cell
+variable {u : Level} {α : Q(Type u)} (zα : Q(Zero $α)) (aα : Q(Add $α)) (mα : Q(Mul $α))
```
Comment (JovanGerb) [inline Mathlib/Tactic/Matrix/MulExpand.lean]: Is there any performance to be gained by reducing the number od parameters? Having separate `Zero`, `Add` and `Mul` instamces makes sense for generality, but maybe we could just use `Semiring` everywhere?

File: Mathlib/Tactic/Matrix/MulExpand.lean [hunk 10]
```diff
@@ -0,0 +1,113 @@
...
+prematurely.
+-/
+
+public meta section
+
+open Lean Meta Qq
+
+namespace Mathlib.Tactic.Matrix
+
+-- the classes are parameters so that every quotation references the one instance term the
```
Comment (JovanGerb) [inline Mathlib/Tactic/Matrix/MulExpand.lean]: I think it's preferred to have full sentences start with a capital and end in a period.

File: Mathlib/Tactic/Matrix/MulExpand.lean [hunk 11]
```diff
@@ -0,0 +1,113 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Rao Xiaojia
+-/
+module
+
+public import Batteries.Logic  -- shake: keep (Qq dependency)
+public import Mathlib.Init
+public import Qq
+
+public meta import Mathlib.Tactic.Matrix.ListMatrix
```
Comment (JovanGerb) [inline Mathlib/Tactic/Matrix/MulExpand.lean]: I got confused by this `meta` import. You are not planning to run any of the functions defined in that file, right?

File: Mathlib/Tactic/Matrix/ListMatrix.lean [hunk 12]
```diff
@@ -0,0 +1,97 @@
...
+`ListMatrix` namespace is used to avoid accidental collision with other downstream definitions.
+
+Lean's `Array` is essentially a `List` within the kernel, so random access is slow; the `List`
+carrier is chosen for easier inductive operations.
+
+Reading an entry by position costs the kernel a walk of that length. Therefore, operations on
+this representation need to be mindful of traversing the structure in an efficient order.
+-/
+
+@[expose] public section
```
Comment (JovanGerb) [inline Mathlib/Tactic/Matrix/ListMatrix.lean]: Can you remove the `@[expose]`, or do you need it somewhere?

Comment (JovanGerb) [inline Mathlib/Tactic/Matrix/ListMatrix.lean]: Can you remove the global `@[expose]` and localize it? It seems that `dotProduct` is not unfolded in proofs` and has sufficient API.

File: Mathlib/Tactic/Matrix/ListMatrix.lean [hunk 13]
```diff
@@ -0,0 +1,97 @@
...
+
+/-!
+# List-based matrix representation and computation
+
+An implementation of a list-based matrix representation and computation for tactics that certify
+facts about matrix literals.
+
+## Implementation notes
+
+The definitions in this file are intended for defining reflection certificates only and should
```
Comment (JovanGerb) [inline Mathlib/Tactic/Matrix/ListMatrix.lean]: You say these are used for proof by reflection, which I think that means the proof uses kernel unfolding. It seems you only rely on that to unfold the definition of `mul`/`transpose` into its components, but not `dotProduct`. Is the rationale that the dot product part is the performance critical one (O(n³)), and hence we don't want that to use kernel unfolding there, but we can use it elsewhere? Could you add a comment about that?

File: Mathlib/Tactic/Matrix/MulExpand.lean [hunk 14]
```diff
@@ -0,0 +1,113 @@
...
+  /-- The list literal of `rows` as built by `mkListLitQ`. -/
+  expr : Q(List (List $α))
+  /-- The proof. -/
+  proof : Q(ListMatrix.mul $l $m $n $A $B = $expr)
+
+/-- Rewrite `ListMatrix.mul l m n A B`, for `A` the list literal of the `l` rows `listA` of `m`
+entries and `B` that of the `m` rows `listB` of `n` entries over `α`, to the literal whose entries
+are the sums of products of the entries. The rows are not checked against `l`, `m` and `n`. -/
+def proveMul (l m n : Nat) (listA listB : List (List Q($α))) : MulEq zα aα mα l m n :=
+  let Bt := letI : Zero Q($α) := ⟨q(0)⟩; ListMatrix.transpose n listB
```
Comment (JovanGerb) [inline Mathlib/Tactic/Matrix/MulExpand.lean]: What is the purpose of this `letI`?

File: Mathlib/Tactic/Matrix/Parsing.lean [hunk 15]
```diff
@@ -19,29 +19,28 @@ public import Mathlib.Tactic.SetLike
...
+namespace Mathlib.Tactic.Matrix
 
-/-- Match a closed `Fin`-indexed matrix literal: its dimensions, element type, and rows of
-entries. -/
-def matchMatrixLit? (A : Expr) : MetaM (Option (Nat × Nat × Expr × Array (Array Expr))) := do
-  -- closedness: a literal with free variables (hypothesis- or let-bound) or metavariables
-  -- is not evaluable here; unfold or substitute such variables before calling the tactic
-  if A.hasFVar || A.hasMVar then return none
+/-- Match a `Fin`-indexed matrix literal: its dimensions, element type, and rows of entries;
+with `closed`, only a literal without free variables or metavariables. -/
```
Comment (JovanGerb) [inline Mathlib/Tactic/Matrix/Parsing.lean]:
```suggestion
with `closed := true`, only a literal without free variables or metavariables. -/
```

File: Mathlib/Tactic/NormMatMul.lean [hunk 16]
```diff
@@ -0,0 +1,84 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Rao Xiaojia
+-/
+module
+
+public import Mathlib.Tactic.Matrix.MulExpand
+public import Mathlib.Tactic.Matrix.OfLists
+public import Mathlib.Tactic.Matrix.Parsing
+public import Mathlib.Tactic.NormNum.Basic  -- shake: keep (`+`/`*` extensions run by `norm_matmul`)
+public meta import Mathlib.Tactic.Matrix.MulExpand
```
Comment (JovanGerb) [inline Mathlib/Tactic/NormMatMul.lean:12]: That file is already a `public meta section`, so you don't need to also `meta` import it.

File: Mathlib/Tactic/NormMatMul.lean [hunk 17]
```diff
@@ -0,0 +1,84 @@
...
+public meta section
+
+open Lean Meta Qq
+
+initialize registerTraceClass `Tactic.norm_matmul
+
+namespace Mathlib.Tactic.Matrix
+
+/-- Normalise the entries of the rows `rows` by `NormNum.deriveSimp`. -/
+def proveNormalizedRows {u : Level} {α : Q(Type u)} (ctx : Simp.Context)
```
Comment (JovanGerb) [inline Mathlib/Tactic/NormMatMul.lean]: Are you sure you need this normalization step? Can't this be done automatically by `simp`/`norm_num` itself?

I suppose there is still the issue of simp lemmas taking priority over this simproc, so you'd have to first run the simproc and then follow it by `norm_num`. This issue should hopefully go away with the proposed new matrix/vector notation.

Comment (JovanGerb) [reply Mathlib/Tactic/NormMatMul.lean]: And if you don't require this simproc to also call norm_num, then it will also work on expressions with free variables, which I expect is also useful.

File: Mathlib/Tactic/Matrix/ListMatrix.lean [hunk 18]
```diff
@@ -0,0 +1,97 @@
...
+
+@[expose] public section
+
+namespace Mathlib.Tactic.Matrix.ListMatrix
+
+variable {α : Type*}
+
+/-- A term for the sum of exactly `n` pointwise products of `l₁` and `l₂` padded with 0. This allows
+its bridge lemma to be provable without `zero_mul`, which minimises the instance strength. -/
+def dotProduct [Mul α] [Add α] [Zero α] : Nat → List α → List α → α
```
Comment (JovanGerb) [inline Mathlib/Tactic/Matrix/ListMatrix.lean:39]: I'm curious: how general do we need these type classes, and is there any performance gain from instead using e.g. `Mul` and `AddMonoid`. Or even just `Semiring`?

**Review by JovanGerb — COMMENTED** [review]
Thanks for working on this!

File: Mathlib/Tactic/Matrix/ListMatrix.lean (hunk 6 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/ListMatrix.lean]: Nice observation! This is also more than just code quality as it saves an `O(mn)` workload (probably ~1-2% improvement).

File: Mathlib/Tactic/Matrix/ListMatrix.lean (hunk 7 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/ListMatrix.lean]: I don't have any opinion for this one; I thought `succ` was the more commonly used one in existing codebase, but you're right that recent commits seem to favour `add_one` for +1. Happy to make the name switch.

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 8 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/MulExpand.lean:9]: This (and the line below) was originally `public import Mathlib.Util.Qq`. However when I ran `shake` locally, it complained that that was only needed for the import closure and suggested replacing by these 2. So I thought I might as well just do it myself instead of waiting for the `shake` bot to do it later.

There's a similar occurrence of this in another file you commented (I'll test again to make sure `shake` does complain about it).

Something I'm uncertain of -- do we usually care about these when opening the PR itself, or are we usually happy to just leave it to `shake`?

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 10 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/MulExpand.lean]: You're right, this is more than an inline comment -- fixed (along with several other `--` comments that are full sentences).

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 1 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/MulExpand.lean]: I'll make the relocation here then (probably as the last item so I don't need to wait for eternity for the rebuild). I think this is the right name following `mkNatLitQ`/`mkIntLitQ` in that file, but to be fair `Util/Qq.lean` itself is not very consistent as it also has `mkSetLiteralQ`. Perhaps simply adding `Q` is the idiom for these makers that already exist in Core, while `Literal` is for definitions written in Mathlib only? 

I'm happy to be persuaded otherwise.

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 14 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/MulExpand.lean]: It provides the `Zero` instance that transposition requires (needed for padding given its design).

File: Mathlib/Tactic/NormMatMul.lean (hunk 16 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/NormMatMul.lean:12]: This is similarly due to complaint from `shake` (`proveMul`'s signature refers to `MulEq`).

But I think in principle you might be right here, because it seems like a redundancy for `shake` to require both `import` and `meta import` to be present for a file only containing a `public meta section`? The compiler itself is happy with just either of the imports. There doesn't seem to be an annotation to suppress `shake` from adding these imports either.

File: Mathlib/Tactic/NormMatMul.lean (hunk 17 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/NormMatMul.lean]: It is possible to drop the normalisation altogether and ask user to apply `norm_num` afterwards themselves. I thought having a default normaliser here seems like a good idea still, so the user doesn't need to write `norm_num` manually after the simproc application. Other entry types are not blocked, since `NormNum.deriveSimp` is a noop on expressions it can't simplify further. I have a test with symbolic input in the test file which currently works!

That being said, I think normalisation on the entire matrix term instead of constructing individually is indeed a strict improvement. It should also be faster as well. (To @Vierkantor 's earlier review on this: since this makes the function a one-liner, I'm going to revert it to be inlined.)

Comment (raoxiaojia) [reply Mathlib/Tactic/NormMatMul.lean]: After that switch, I think for the code below here, it's easier to directly ask `NormNum.deriveSimp` to traverse on the matrix notation itself instead of on list first. This also makes the code more compatible with the eventual notation update as well.

File: Mathlib/Tactic/Matrix/ListMatrix.lean (hunk 18 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/ListMatrix.lean:39]: I thought it's good to keep the requires strength minimum here. Initially I used `NonUnitalNonAssocSemiring` (which seems to be the more common typeclass used for declarations like this) on the bridge lemmas. 

A different issue is that when using the bundled typeclass, all the terms using `+`, `*` and `0` become projections from the larger instance, and it also makes `norm_num`'s elaboration checks more expensive, since it has to unfold the projection chain per node (and elaboration doesn't cache this IIUC). I recall observing a ~25% improvement in elaboration time after switching from the projection to these smaller instances directly during early stages of this work.

File: Mathlib/Tactic/Matrix/ListMatrix.lean (hunk 12 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/ListMatrix.lean]: Right -- I think it's a better design as well, since the design in `MulExpand.lean` is actively trying to guard against `dotProduct` being unfolded by the kernel. Only `transpose` and `mul` need to be exposed.

File: Mathlib/Tactic/Matrix/ListMatrix.lean (hunk 13 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/ListMatrix.lean]: I agree I should definitely add a comment for this. There are also some nontrivial reasons for the particular design here that I should better justify in the comments.

The current design is for `proveMul` to produce a proof term that the product is a matrix where each entry is the expanded form of the `dotProduct` function here, without normalising (because there's no general normaliser for an arbitrary type). Asking the kernel to just evaluate it certainly works, but suboptimal for 2 reasons:
- for types with computable arithmetics, the kernel will try to unfold the arithemetic operations as well rather than just unfolding `dotProduct` structurally, which is wasted computation since we only return the expanded form anyway.
- for types without kernel computation, it is actually fine to ask kernel to just reduce `dotProduct` because that's the only reduction it can do. However in this process it still tries to reduce `+` and `*` a lot and give up on each time before realising that they are opaque, and unfolds `dotProduct` itself, so this introduces `O(n^3)` unnecessary probes (as you said). I did a measurement just now and it's around a 2x constant in time.

A different design is for `proveMul` to simply return a matrix where each entry is a `dotProduct` term and let downstream users decide what they wanna do with it. This does make the proof construction here much easier (no need for the manual chain construction), but it only defers the work to later tactics, many of which might need to handroll the exact same proof construction here anyway. Other normalisers do not know how to handle `dotProduct` either by default.

**Comment by raoxiaojia** [comment]
-awaiting-author

File: Mathlib/Tactic/Matrix/ListMatrix.lean (hunk 6 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Matrix/ListMatrix.lean]: If you want to save a bit more workload, you could probably also write your own recursive function that combines `zipWith` and `rightpad` into a single recursive loop.

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 8 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Matrix/MulExpand.lean:9]: Hmm, I don't know exactly how shake works, but I have noticed that it adds many imports in places where they aren't needed.

File: Mathlib/Tactic/NormMatMul.lean (hunk 16 above)
Comment (JovanGerb) [reply Mathlib/Tactic/NormMatMul.lean:12]: I did report this issue here: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/shake/near/623847934

Maybe you could post this example there?

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 8 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/MulExpand.lean:9]: Yes, there was a previous episode due to the `Lean.recordExtraRevUseOfCurrentModule` tag here: https://github.com/leanprover-community/mathlib4/pull/43073#issuecomment-5435718245

File: Mathlib/Tactic/NormMatMul.lean (hunk 16 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/NormMatMul.lean:12]: Done!

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 1 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/MulExpand.lean]: I'll mark this as resolved as the relocation is done.

File: Mathlib/Tactic/Matrix/ListMatrix.lean (hunk 6 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/ListMatrix.lean]: Yes. This is less of a free win like dropping the `.take` was, since it requires a new def and a bridge lemma to the library form (or handrolled length and access lemmas). But I think it's worth it, because the `zipWith + rightpad` version actually requires 3 traversals instead of just one, because `List.rightpad` itself is defined as `++` and `List.length` instead of a manual recursion, so that is 2 traversals in itself. In hindsight that makes it a suboptimal def that I should never use in the hot path. Having taken a look at the other usage in `mul`, it is actually fine since it's only traversed once. I'll push my changes for this one shortly.

`transpose` is a second-order contributor to the overall complexity so this doesn't provide too much a boost to the performance, but implementations like this (using a single traversal instead of multiple) is something I try to always aim for, unless it requires too much bespoke construction. In general I think it's best to lean towards code maintenance more for the lower-order terms, and craft a bespoke optimised version for the hottest path. In fact, this PR itself is such an optimisation for #43438 (and anything that needs matrix mult), which provides a ~4x better constant!

File: Mathlib/Tactic/Matrix/ListMatrix.lean [hunk 19]
```diff
@@ -0,0 +1,116 @@
...
+  | 0, _, _ => 0
+  | n + 1, l₁, l₂ => l₁.headD 0 * l₂.headD 0 + dotProduct n l₁.tail l₂.tail
```
Comment (Vierkantor) [inline Mathlib/Tactic/Matrix/ListMatrix.lean:41]: Idea for future work, not in this PR: since we expect to fully evaluate this term, rather than get it into WHNF, we might want to consider using an accumulating parameter, instead of making a call tree of size `O(n)`.

File: Mathlib/Tactic/Matrix/MulExpand.lean [hunk 20]
```diff
@@ -0,0 +1,110 @@
...
+  have mQ : Q(Nat) := q($m)
+  ⟨mQ, l₁, l₂, fold, mkExpectedPropHint h q(ListMatrix.dotProduct $mQ $l₁ $l₂ = $fold)⟩
+where
+  /-- The chain of the equations, whose `n` is the successor tower `((0 + 1) + 1) + …` they
+  build, one `+ 1` per term rather than a numeral. -/
+  go : List Q($α) → List Q($α) → DotProductEq zα aα mα
+    | a :: as, b :: bs =>
+      let ⟨n, l₁, l₂, fold, h⟩ := go as bs
+      ⟨q($n + 1), q($a :: $l₁), q($b :: $l₂), q($a * $b + $fold),
+        q(ListMatrix.dotProduct_add_one_cons_cons $a $b $h)⟩
```
Comment (Vierkantor) [inline Mathlib/Tactic/Matrix/MulExpand.lean]: I wonder if turning the list of expression into an expression of lists is the right thing to do at this point in the program, rather than earlier or later. Namely, matrix multiplication is going to end up making each row go through `proveDotProduct` n times, and each column m times. That means it will create quite a bit of garbage and might mean cache misses, since two differently constructed expressions won't have the same pointer ID.

Happy to declare this remark as future work, since it shouldn't affect the big-O time usage of the simproc, only the space usage.

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 14 above)
Comment (Vierkantor) [reply Mathlib/Tactic/Matrix/MulExpand.lean]:
```suggestion
  let Bt := let : Zero Q($α) := ⟨q(0)⟩; ListMatrix.transpose n listB
```
Since there are no proofs inside this definition (outside of the meta level), we can use `let` rather than `letI`.

File: Mathlib/Tactic/NormMatMul.lean [hunk 21]
```diff
@@ -0,0 +1,74 @@
...
+    | trace[Tactic.norm_matmul] "not a matrix literal{indentExpr B}"
+      return .continue
+  let u ← getDecLevel R
+  have α : Q(Type u) := R
+  have e : Q(Matrix (Fin $l) (Fin $n) $α) := e
+  let rowsA : List (List Q($α)) := rowsA.toList.map Array.toList
+  let rowsB : List (List Q($α)) := rowsB.toList.map Array.toList
+  have zα : Q(Zero $α) := ← synthInstanceQ q(Zero $α)
+  have aα : Q(Add $α) := ← synthInstanceQ q(Add $α)
+  have mα : Q(Mul $α) := ← synthInstanceQ q(Mul $α)
```
Comment (Vierkantor) [inline Mathlib/Tactic/NormMatMul.lean]: The rule of thumb to use `let` for data suggests:
```suggestion
  let zα : Q(Zero $α) ← synthInstanceQ q(Zero $α)
  let aα : Q(Add $α) ← synthInstanceQ q(Add $α)
  let mα : Q(Mul $α) ← synthInstanceQ q(Mul $α)
```
(I know either form is fine since we do not have any proofs (outside the meta-level).)

File: Mathlib/Tactic/NormMatMul.lean [hunk 22]
```diff
@@ -0,0 +1,74 @@
...
+  let res ← Mathlib.Meta.NormNum.deriveSimp (← readThe Simp.Context) (useSimp := false) (e := C)
+  return .done { expr := res.expr, proof? := some (← mkEqTrans pf (← res.getProof)) }
+
+end Mathlib.Tactic.Matrix
+
+open Mathlib.Tactic.Matrix
+
+/-- Rewrite a product of matrix literals to the literal of the product, with the entries
+normalised by `norm_num` if possible. -/
+simproc_decl norm_matmul ((_ * _ : Matrix (Fin _) (Fin _) _)) := fun e => do
```
Comment (Vierkantor) [inline Mathlib/Tactic/NormMatMul.lean]: (I checked that this key is indeed `Fin`-specific according to `#discr_tree_key`, sometimes types get omitted from the key.)

File: Mathlib/Tactic/NormMatMul.lean [hunk 23]
```diff
@@ -0,0 +1,74 @@
...
+  try normMatMulCore e
+  catch ex =>
+    trace[Tactic.norm_matmul] "{ex.toMessageData}"
+    return .continue
```
Comment (Vierkantor) [inline Mathlib/Tactic/NormMatMul.lean]: Does the `try`/`catch` make sense here, since `normMatMulCore` already returns `.continue` for terms outside of its scope? So any other failure I would consider to be a bug in `norm_matmul` (which should not pass silently).

File: MathlibTest/NormMatMul.lean [hunk 24]
```diff
@@ -0,0 +1,62 @@
+module
```
Comment (Vierkantor) [inline MathlibTest/NormMatMul.lean:1]: (I also checked that the existing `MathlibTest/matrix.lean` tests do not overlap with these: the existing tests all contain free variables.)

**Review by Vierkantor — APPROVED** [review]
Some small comments, mostly looks good to me. Nice work! I'll let Jovan make the final decision.

bors d=@JovanGerb

File: Mathlib/Tactic/Matrix/ListMatrix.lean (hunk 19 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/ListMatrix.lean:41]: This is something I've always been unsure of, and I thought it's worth bringing up for a discussion: does making a recursive function like this tail-recursive actually help kernel evaluation -- i.e. does the kernel have an optimisation for tail-recursion, or does it just lazily pass the arguments around? Or perhaps the answer is actually dependent on which implementation of the kernel we use?

I know that if running in compiled, executing a tail-recursive function avoids the call stack allocation, so it's a strictly better design, which is something I used to optimise more for when I worked on interpreters extracted from proof assistants.

Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/ListMatrix.lean:41]: On a side node, for this function in particular I chose to seal it and expose only the rewrite lemmas to compute it due to the issue of potential eager evaluation of arithmetics (also discussed with Jovan in a comment above).

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 14 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Matrix/MulExpand.lean]: Do I understand correctly that this `Zero` instance is completely unused? It should only be used for padding when taking this transpose. But here we assume that `listB` is already a rectangular matrix. So it may be more fitting to use `let : Zero Q($α) := ⟨default⟩`

File: Mathlib/Tactic/Matrix/ListMatrix.lean (hunk 19 above)
Comment (JovanGerb) [reply Mathlib/Tactic/Matrix/ListMatrix.lean:41]: Tail call optimizations are only a thing in the compiler. The kernel only computes things symbolically, i.e. just unfolding the definitions repeatedly.

So I think the current approach is fine

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 20 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/MulExpand.lean]: Hmmm you're right here, I actually think there might be a pretty substantial potential improvement on the constant here as this is on the O(n^3) hot path. Design-wise each row and column is an individual object on their own, so it makes sense to construct them only once; this will also also be helpful for any eventual packing optimisations if we do it.

I tried some quick experiments just now but Qq seems to be messing up with caching, so I only got it to work in `Expr` without the quoted syntax. Happy for this to be merged as is, but I'll come back to this regardless.

File: MathlibTest/NormMatMul.lean (hunk 24 above)
Comment (raoxiaojia) [reply MathlibTest/NormMatMul.lean:1]: There might be a case for splitting `MathlibTest/matrix.lean` up eventually when we get more dedicated tactics and simprocs I guess.

File: Mathlib/Tactic/NormMatMul.lean (hunk 23 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/NormMatMul.lean]: Good point, I'll make a change here. This might also apply to the rank simproc as well; I'll look into that later (probably tmr).

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 20 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/MulExpand.lean]: Upd: I think I have a sensible design after some more thoughts and will push it shortly. Pre-constructing the list expressions instead of building it here improved the wall time by ~20% at larger sizes and also saved a lot of allocations.

**Comment by raoxiaojia** [comment]
I've addressed the last round of review (the note on prebuilding expressions instead of building it within `proveDotProduct` provided an up to ~20% performance improvement at larger sizes!).

Happy for this to be merged when Jovan thinks it's good to go.

File: Mathlib/Tactic/Matrix/ListMatrix.lean (hunk 19 above)
Comment (Vierkantor) [reply Mathlib/Tactic/Matrix/ListMatrix.lean]: Because kernel evaluation is all substitution-based, tail call optimization happens 'for free': unfolding an accumulating parameter version would look something like
```lean
dotProductAcc n+1 acc (x::xs) (y::ys) =>
dotProductAcc (acc + x * y) n xs ys
```
It's only really a separate optimization step if you need more complicated semantics for calls than substitution! (I recall this point was made most clearly, to me, in SICP.)

But on the other hand you're right that the kernel won't evaluate eagerly so we can't guarantee that the accumulating parameter doesn't end up deep in thunks. I'm going to close this discussion thread since it's probably not going to happen :)

File: Mathlib/Tactic/Matrix/MulExpand.lean [hunk 25]
```diff
@@ -58,22 +58,40 @@ structure DotProductEq where
...
-`m` a numeral and `fold` the sum of the products `a₀ * b₀ + (a₁ * b₁ + (… + 0))`, unfolded by
-the equations of `ListMatrix.dotProduct`. -/
-def proveDotProduct (m : Nat) (as bs : List Q($α)) : DotProductEq zα aα mα :=
-  let ⟨_, l₁, l₂, fold, h⟩ := go as bs
-  have mQ : Q(Nat) := q($m)
+/-- The dot product of the first `m` entries of the list literals `l₁` and `l₂`,
+`ListMatrix.dotProduct m l₁ l₂ = fold`, with `m` a numeral and `fold` the sum of the products
+`a₀ * b₀ + (a₁ * b₁ + (… + 0))`, unfolded by the equations of `ListMatrix.dotProduct`.
+The function takes the pre-built `Expr` for list literals instead of taking the list of entry
+literals and build it here, to avoid reconstructing the expressions multiple times. -/
```
Comment (JovanGerb) [inline Mathlib/Tactic/Matrix/MulExpand.lean]: Isn't there an easier way to achieve this, namely to simply re-use the output of `proveDotProduct`?

Comment (JovanGerb) [reply Mathlib/Tactic/Matrix/MulExpand.lean]: The current approach added quite a few extra lines of code.

**Comment by JovanGerb** [comment]
In a comment above I suggested to use `let : Zero Q($α) := ⟨default⟩` instead of `let : Zero Q($α) := ⟨q(0)⟩`, since the instance is not meant to be used anyways. (I know it can be easy to lose track of PR comments sometimes)

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 25 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/MulExpand.lean]: Hmm assuming I understand your suggestion correctly, the duplication at the old L103 was only a part of the issue -- the old L74 also redundantly constructed the terms (suffixes) as well (and was the major part), so taking the preconstructed terms avoid constructing them again here within `proveDotProduct` (unless you meant feeding the output of the earlier calls to `proveDotProduct` to the later ones, but that seems to be slightly difficult to write/collapse to the current signature anyway).

The current version does look quite long, although I'd say around 10 lines of it are due to avoiding using `~q()`.

**Comment by raoxiaojia** [comment]
> In a comment above I suggested to use `let : Zero Q($α) := ⟨default⟩` instead of `let : Zero Q($α) := ⟨q(0)⟩`, since the instance is not meant to be used anyways. (I know it can be easy to lose track of PR comments sometimes)

My bad, I missed that during my turn. Will push a fix shortly.

I preserved the `q(0)` in `proveDotProduct` since they are actually used in the base case.

File: Mathlib/Tactic/Matrix/MulExpand.lean (hunk 25 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/MulExpand.lean]: ~~I can make this slightly shorter by using `let_expr` instead of `match_expr` I guess.~~ Actually it isn't shorter, so perhaps I'll stay with this.

File: Mathlib/Tactic/Matrix/ListMatrix.lean (hunk 19 above)
Comment (raoxiaojia) [reply Mathlib/Tactic/Matrix/ListMatrix.lean]: I ran a quick experiment and the kernel time was identical indeed -- probably because the argument isn't eagerly evalauted and a `O(n)` length argument is built anyway. The elaborator is actually slightly slower on the tail recursive version marginally (not by much), but this could be implementation sensitive.

**Comment by JovanGerb** [comment]
Thanks :tada:

bors r+
